US06897210B2
A mixture of 4-(chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (3.28 g, 10 mmol), (prepared as described for the starting material in Example 2), 1-bromo-3-tetrahydropyranyloxypropane (2.5 g, 11 mmol) and potassium carbonate (5.0 g, 36 mmol) in DMF (50 ml) was stirred and heated at 90° C. for 3 hours. The reaction mixture was allowed to cool, was diluted with water (500 ml) and extracted with ethyl acetate (3×100 ml). The extracts were combined, washed with water (×3), and then brine, and dried (MgSO4). The solvent was removed by evaporation and the residue was purified by column chromatography eluting with ethyl acetate. The purified product was recrystallised from ethyl acetate/hexane to give 4-(chloro-2-fluoroanilino)methoxy-7-(3-tetrahydropyran-2-yloxypropoxy)quinazoline (2.25 g, 49%).

reactant | 4-(chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 10 mmol, 3.28 g | ClN(C1=C(C=CC=C1)F)C1=NC=NC2=CC(=C(C=C12)OC)O | C15H11ClFN3O2
reactant | 1-bromo-3-tetrahydropyranyloxypropane | 11 mmol, 2.5 g | BrCCCOC1OCCCC1 | C8H15BrO2
reactant | potassium carbonate | 36 mmol, 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | 500 ml | O | H2O
product | 4-(chloro-2-fluoroanilino)methoxy-7-(3-tetrahydropyran-2-yloxypropoxy)quinazoline | 2.25 g, 49% | ClN(C1=C(C=CC=C1)F)COC1=NC=NC2=CC(=CC=C12)OCCCOC1OCCCC1 | C23H25ClFN3O4
